US08426449B2
Step 3: (3-{2-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4-nitro-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester
To [3-(2-ethylaminomethyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester (0.5 g, 1.29 mmol) in CH2Cl2 (20 mL) was added triethylamine (1 mL, 7.17 mmol), followed by benzyl chloroformate (0.25 g, 1.5 mmol), and the reaction was stirred at room temperature for 30 minutes. After work-up, the crude material was purified by silica gel chromatography (0-40% EtOAc in hexanes) to give the title compound.

reactant | [3-(2-ethylaminomethyl-4-nitro-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | 1.29 mmol, 0.5 g | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)[N+](=O)[O-])CNCC)=O | C20H24N2O6
reactant | triethylamine | 7.17 mmol, 1 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 1.5 mmol, 0.25 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (3-{2-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4-nitro-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)[N+](=O)[O-])CN(CC)C(=O)OCC1=CC=CC=C1)=O | C28H30N2O8
